US06239131B1
Preparation of 1-methoxymethyl-2-oxo-3-amino-5-phenyl-8-methoxy-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
1-Methoxymethyl-2-oxo-3-propylaminocarbonyloxyimino-5-phenyl-8-methoxy-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (0.78 g) was suspended in methanol (20 ml), 10% palladium carbon (0.20 g) was added thereto, the mixture was swung for 2 hours and 30 minutes under hydrogen atmosphere (3.5-3.0 kg/cm2). The palladium carbon was removed by filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=20:1), to thereby obtain 0.63 g of the titled compound.

reactant | 1-Methoxymethyl-2-oxo-3-propylaminocarbonyloxyimino-5-phenyl-8-methoxy-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 0.78 g | COCN1C(C(CN(C2=C1C=C(C=C2)OC)C2=CC=CC=C2)=NOC(=O)NCCC)=O | C22H26N4O5
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium carbon | 0.20 g | [C].[Pd]
product | 1-methoxymethyl-2-oxo-3-amino-5-phenyl-8-methoxy-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 0.63 g | COCN1C(C(CN(C2=C1C=C(C=C2)OC)C2=CC=CC=C2)N)=O | C18H21N3O3
